US05840758
A solution in 3:1 ethanol-pyridine of 2-[(2,6-dichloro-3-methylphenyl)amino]benzaldehyde, prepared as in Example 1, steps 1-2, and O-allyl hydroxylamine(1.3 eq) was heated at reflux for 2 days. The reaction mixture was poured into ethyl acetate and the mixture was extracted with 10% aqueous HCl. Chromatography on silica gel (20% CH2Cl2 /hexanes) gave 2-[(2,6-dichloro-3-methylphenyl)amino]benzaldehyde-O-allyl oxime (1.13 g, 94%).

reactant | 2-[(2,6-dichloro-3-methylphenyl)amino]benzaldehyde | ClC1=C(C(=CC=C1C)Cl)NC1=C(C=O)C=CC=C1 | C14H11Cl2NO
reactant | O-allyl hydroxylamine | 1.3 eq | C(C=C)ON | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[(2,6-dichloro-3-methylphenyl)amino]benzaldehyde-O-allyl oxime | 1.13 g, 94% | C(C=C)ON=CC1=C(C=CC=C1)NC1=C(C(=CC=C1Cl)C)Cl | C17H16Cl2N2O
